US04587051
(B) (3S-trans)-3-[[(Phenylmethoxy)carbonyl]amino]-4-methyl-2-azetidinone
A solution of (3S-trans)-2-oxo-3-[[(phenylmethoxy)carbonyl]amino]-4-methyl-1-azetidinesulfonic acid, 8-hydroxyquinolinium salt (150 mg, 0.326 mmol) in acetonitrile (10 ml) was brought rapidly to reflux by lowering the reaction vessel into a preheated oil bath. The mixture was refluxed for a total of 9 minutes during which time a precipitate formed. After cooling to room temperature, the mixture was filtered and solvent was removed from the filtrate in vacuo. The resulting residue was partially dissolved in a small amount of acetonitrile and the addition of ethyl acetate caused further precipitation. After decanting the supernatant, the procedure was repeated on the solid. The remaining solid was triturated with ethyl acetate and decanted. The supernatants were filtered through Celite, combined, and solvent was removed under reduced pressure yielding an oil (84 mg). The crude product was purified by column chromatography on silica gel (2 g, Mallinckrodt SilicAR CC-4). Elution with 5% acetonitrile: 95% ethyl acetate afforded the desired product (56 mg).

reactant | (3S-trans)-2-oxo-3-[[(phenylmethoxy)carbonyl]amino]-4-methyl-1-azetidinesulfonic acid, 8-hydroxyquinolinium salt | 0.326 mmol, 150 mg | OC=1C=CC=C2C=CC=[NH+]C12.O=C1N([C@H]([C@@H]1NC(=O)OCC1=CC=CC=C1)C)S(=O)(=O)[O-]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (3S-trans)-3-[[(Phenylmethoxy)carbonyl]amino]-4-methyl-2-azetidinone | 84 mg | C1(=CC=CC=C1)COC(=O)N[C@@H]1C(N[C@H]1C)=O | C12H14N2O3
